US06248740B1
Production of ethyl 2-[6-[3-[4-[bis(4-fluorophenyl)methoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate
1.62 g of 4-[bis(4-fluorophenyl)methoxy]-1-piperidinepropanamine and 0.803 g of ethyl 2-[6chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate were stirred at 190-200° C. for 3 hours. After cooling, aqueous sodium bicarbonate and saline were added, followed by extraction with ethyl acetate; the extract was washed with saturated saline and dried with magnesium sulfate. The dry product was concentrated under reduced pressure; the residue was subjected to silica gel column chromatography and eluted with ethyl acetate:methanol:triethylamine (90:10:1). The desired fraction was collected, dissolved in 20 ml of ethyl acetate; a solution of 301 mg of fumaric acid in 10 ml of methanol was added, followed by concentration. Acetone was added to the residue; the crystal precipitate was collected by filtration, washed with acetone and dried to yield 0.966 g of the title compound.

reactant | 4-[bis(4-fluorophenyl)methoxy]-1-piperidinepropanamine | 1.62 g | FC1=CC=C(C=C1)C(OC1CCN(CC1)CCCN)C1=CC=C(C=C1)F | C21H26F2N2O
reactant | ethyl 2-[6chloroimidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate | 0.803 g | ClC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C | C12H14ClN3O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
product | ethyl 2-[6-[3-[4-[bis(4-fluorophenyl)methoxy) piperidino]propylamino]imidazo[1,2-b]pyridazin-2-yl]-2-methylpropionate difumarate | 0.966 g | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.FC1=CC=C(C=C1)C(OC1CCN(CC1)CCCNC=1C=CC=2N(N1)C=C(N2)C(C(=O)OCC)(C)C)C2=CC=C(C=C2)F | InChI=1S/C33H39F2N5O3.2C4H4O4/c1-4-42-32(41)33(2,3)28-22-40-30(37-28)15-14-29(38-40)36-18-5-19-39-20-16-27(17-21-39)43-31(23-6-10-25(34)11-7-23)24-8-12-26(35)13-9-24;2*5-3(6)1-2-4(7)8/h6-15,22,27,31H,4-5,16-21H2,1-3H3,(H,36,38);2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
